datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1nc[n:10]c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12.Oc1cccc(C[NH2+:21][H:20])c1>>Nc1nc[n+:10]([H:20])c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12.Oc1cccc(C[NH2:21])c1 10=20;20,21=21",
"Clc1ccc([NH2:10])cc1.O=P1([O:21][H:20])CCCCC1>>Clc1ccc([NH2+:10][H:20])cc1.O=P1([O-:21])CCCCC1 10=20;20,21=21",
"CC(C)[NH+:21](CCN)[H:20].C[NH+](C)CCc1ccccc1[O-:10]>>CC(C)[NH:21]CCN.C[NH+](C)CCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"COc1ccc([O-:10])c(CNC(CO)C(=O)[O-])c1.C[NH2+]CCN(C)CC[NH+:21](C)[H:20]>>COc1ccc([O:10][H:20])c(CNC(CO)C(=O)[O-])c1.C[NH2+]CCN(C)CC[NH:21]C 10=20;20,21=21",
"Clc1cc(Cl)c([O-:10])c(C[NH+]2CCCCC2)c1Cl.c1ccc(Cc2c([O:21][H:20])n[nH]c2-c2ccccc2)cc1>>Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCCCC2)c1Cl.c1ccc(Cc2c([O-:21])n[nH]c2-c2ccccc2)cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"O=C1NC=C(SSC2=CNC(=O)[N-:10]C2=O)C(=O)N1.c1cc2ccc([O:21][H:20])cc2cn1>>O=C1NC=C(SSC2=CNC(=O)[N:10]([H:20])C2=O)C(=O)N1.c1cc2ccc([O-:21])cc2cn1 10=20;20,21=21",
"CC(C)(C)C(=O)[O-:10].Cc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1>>CC(C)(C)C(=O)[O:10][H:20].Cc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1 10=20;20,21=21",
"C[C@H]([C@H](O)c1ccccc1)[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[C@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C=CCC(C)(C[N:10](CC)CC)OC(C)=O.c1ccc([P+:21](c2ccccc2)(c2ccccc2)[H:20])cc1>>C=CCC(C)(C[N+:10](CC)(CC)[H:20])OC(C)=O.c1ccc([P:21](c2ccccc2)c2ccccc2)cc1 10=20;20,21=21",
"Cc1cc(C)c(/N=N/c2c(C)cc([O-:10])cc2C)c(C)c1.Cc1cccc(I)c1C(=O)[O:21][H:20]>>Cc1cc(C)c(/N=N/c2c(C)cc([O:10][H:20])cc2C)c(C)c1.Cc1cccc(I)c1C(=O)[O-:21] 10=20;20,21=21",
"Cc1nccc2c1[nH]c1cc([O-:10])ccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1nccc2c1[nH]c1cc([O:10][H:20])ccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC=C2)[H:20])=C1>>COCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC=C2)=C1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCCCCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCCCCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O-:10])ccc12.Fc1cccc[n+:21]1[H:20]>>Cc1c(Cn2cc[nH+]c2)sc2cc(C(=O)[O:10][H:20])ccc12.Fc1cccc[n:21]1 10=20;20,21=21",
"C=C[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCOCCOCCOCCOCC2)c1>>C=C[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"CC(C)(C)c1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.C[n+]1c([O-])cc[n:10]c1[O-]>>CC(C)(C)c1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.C[n+]1c([O-])cc[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"Ic1ccc2cc([O-:10])ccc2c1.OCCCCCC[NH2+:21][H:20]>>Ic1ccc2cc([O:10][H:20])ccc2c1.OCCCCCC[NH2:21] 10=20;20,21=21",
"C[NH+](C)c1cccc2cccc([N+:21](C)(C)[H:20])c12.c1cc(N2CCCC2)c2c([N:10]3CCCC3)cccc2c1>>C[NH+](C)c1cccc2cccc([N:21](C)C)c12.c1cc(N2CCCC2)c2c([N+:10]3([H:20])CCCC3)cccc2c1 10=20;20,21=21",
"CC(=O)/C(C[NH+]1CCCCC1)=N\[O-:10].CN(C)c1ccc2cc3c4ccccc4ccc3[n+:21]([H:20])c2c1>>CC(=O)/C(C[NH+]1CCCCC1)=N\[O:10][H:20].CN(C)c1ccc2cc3c4ccccc4ccc3[n:21]c2c1 10=20;20,21=21",
"CC(C)(O)C(=O)[O:21][H:20].O[NH:10]c1ccc(Cl)cc1>>CC(C)(O)C(=O)[O-:21].O[NH+:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"Oc1ccc([O-:10])c2cccnc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc([O:10][H:20])c2cccnc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20].c1ccc(Oc2cccc[n:10]2)cc1>>[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O-:21].c1ccc(Oc2cccc[n+:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)(C)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].ClC(Cl)=CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC(Cl)=CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2:10])c2)c(Cl)c1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2+:10][H:20])c2)c(Cl)c1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20].c1ccc2c(c1)ncc[n:10]2>>CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O-:21].c1ccc2c(c1)ncc[n+:10]2[H:20] 10=20;20,21=21",
"COc1nc2ccccc2[n+:21]([H:20])c1C.Cl/C(=N/[O-:10])c1ccccc1>>COc1nc2ccccc2[n:21]c1C.Cl/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CC[NH+](CC)C/C(=N\[O-:10])C(C)=NO.Clc1cccc(-c2cccc[n+:21]2[H:20])n1>>CC[NH+](CC)C/C(=N\[O:10][H:20])C(C)=NO.Clc1cccc(-c2cccc[n:21]2)n1 10=20;20,21=21",
